US07626042B2
(1) 5-Chloro-N-[2-chloro-5-(trifluoromethyl)phenyl]-2-hydroxybenzamide.
Using 5-chlorosalicylic acid and 2-chloro-5-(trifluoromethyl)aniline as the raw materials, the same operation as the Example 1(1) gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 2-chloro-5-(trifluoromethyl)aniline | ClC1=C(N)C=C(C=C1)C(F)(F)F | C7H5ClF3N
product | 5-Chloro-N-[2-chloro-5-(trifluoromethyl)phenyl]-2-hydroxybenzamide | Yield: 49.1% | ClC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)Cl)C1)O | C14H8Cl2F3NO2
